US05136034
Preparation of Methyl 5-(3-hydroxyphenyl)-7-oxo-4,6-dithiaoctanoate
To a dichloromethane (100 cc) solution of 3-hydroxybenzaldehyde (3.05 g, 25 mm) was added methyl 3-mercaptopropionate (3.0 g, 25 mm), thiolacetic acid (1.9 g, 25 mm), and dry zinc iodide (4.8 g, 15 mm). The mixture was reacted at room temPerature for 16 hrs and then diluted with dichloromethane, washed successively with 1N HCl, brine and dried with sodium sulphate. Removal of the solvent left a residue which was purified by chromatography (SiO2) to yield the title compound.

reactant | 3-hydroxybenzaldehyde | 3.05 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methyl 3-mercaptopropionate | 3.0 g | SCCC(=O)OC | C4H8O2S
reactant | thiolacetic acid | 1.9 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dichloromethane | 100 cc | ClCCl | CH2Cl2
catalyst | zinc iodide | 4.8 g | [I-].[Zn+2].[I-]
product | Methyl 5-(3-hydroxyphenyl)-7-oxo-4,6-dithiaoctanoate | OC=1C=C(C=CC1)C(SCCC(=O)OC)SC(C)=O | C13H16O4S2
